US06576656B1
1-(2-Diethylaminoethyl)-3-hydroxy-3-(2-indolyl)-4-bromooxindole
To indole (39.7 mg, 1.1 eq) in anhydrous THF (2 mL) under a nitrogen atmosphere and with stirring was added n-BuLi (0.22 mL, 1.1 eq, 1.53 M in hexanes) at −78° C. (bath temperature). Stirring was continued for 1 hour after which CO2 (g) was bubbled through the solution for ca. 30 minutes. The reaction mixture was then allowed to warm to room temperature and stirred at room temperature for a further 30 minutes. The solvent was removed in vacuo to give a white/light yellow solid which was left under vacuum (10 mmHg) for 17 hours. To the thus dried solid under a nitrogen atmosphere was added anhydrous THF (2 mL). The resulting clear solution was cooled to −78° C. (bath temperature) and t-BuLi (0.20 mL, 1.1 eq, 1.7 M in pentane) added dropwise. The colourless solution was stirred for 1 hour and 1-(2-diethylaminoethyl)-4-bromoisatin (100.0 mg, 3.08×10−4 mol) in anhydrous THF (2 mL) was added dropwise. The resulting red coloured solution was stirred at −40° C. for 7.5 hours. To the solution was added H2O (1.5 mL) and the mixture allowed to warm to room temperature. Saturated aqueous NH4Cl (1.5 mL) was then added. The mixture was extracted with EtOAc and the combined extracts were dried (anhydrous Na2SO4). After filtration the solvent was removed in vacuo. Purification was carried out by column chromatography (silica gel, eluting 1% to 1.5% MeOH in CHCl3) to give the title compound as a red oil (39.4 mg, 29%).

reactant | indole | 39.7 mg, 1.1 eq | N1C=CC2=CC=CC=C12 | C8H7N
reactant | n-BuLi | 1.53 M, 0.22 mL, 1.1 eq | [Li]CCCC
reactant | t-BuLi | 1.7 M, 0.20 mL, 1.1 eq | [Li]C(C)(C)C
reactant | 1-(2-diethylaminoethyl)-4-bromoisatin | 3.08×10−4 mol, 100.0 mg | C(C)N(CCN1C(=O)C(=O)C2=C(C=CC=C12)Br)CC | C14H17BrN2O2
reactant | NH4Cl | 1.5 mL | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | THF | 2 mL | C1CCOC1 | C4H8O
solvent | H2O | 1.5 mL | O | H2O
product | 1-(2-Diethylaminoethyl)-3-hydroxy-3-(2-indolyl)-4-bromooxindole | 39.4 mg, 29% | C(C)N(CCN1C(C(C2=C(C=CC=C12)Br)(C=1NC2=CC=CC=C2C1)O)=O)CC | C22H24BrN3O2
